US05356897
A mixture of 5-amino-3-(4-fluorophenyl)-4-(pyridin-4yl)pyrazole (153 mg), dibenzoylmethane (162 mg) and conc. hydrochloric acid (0.1 ml) in ethanol (5 ml) was refluxed for 4 hours. The reaction mixture was cooled and poured into ice-water. The mixture was neutralized with an aqueous saturated sodium bicarbonate solution. The separated oil was extracted with dichloromethane and the extract was washed with brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from methanol to give 5,7-diphenyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine (250 mg).

reactant | 5-amino-3-(4-fluorophenyl)-4-(pyridin-4yl)pyrazole | 153 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H11FN4
reactant | dibenzoylmethane | 162 mg | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5,7-diphenyl-2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine | 250 mg | C1(=CC=CC=C1)C1=NC=2N(C(=C1)C1=CC=CC=C1)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C29H19FN4
